US06858638B2
5-Fluoro-2-methylsulfonylphenylamine can be obtained in the following way: 1.25 ml of water and 0.47 ml of an aqueous 12N hydrochloric acid solution are added to a solution of 1.2 g of 4-fluoro-1-methylsulfonyl-2-nitrobenzene in 80 ml of ethanol. The reaction mixture is then heated at the reflux of the solvent and 0.92 g of powdered iron are added portionwise. The reaction mixture is then stirred at the reflux of the solvent for 2 hours, then at a temperature in the region of 20° C. for 16 hours. It is then filtered through sintered glass and the solid is washed with ethanol. The filtrate is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in a mixture of water and ethyl acetate and then basified with an aqueous sodium hydrogencarbonate solution, to a pH in the region of 10, and allowed to settle out. The aqueous phase is extracted with 4 times 50 ml of ethyl acetate. The organic extracts are pooled, washed with water, dried over magnesium sulfate, treated with 3S black, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1 g of 5-fluoro-2-methylsulfonylphenylamine is thus obtained in the form of a beige oil which crystallizes (Rf=0.33, silica gel thin layer chromatography, eluent: dichloromethane).

reactant | water | 1.25 ml | O | H2O
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | 4-fluoro-1-methylsulfonyl-2-nitrobenzene | 1.2 g | FC1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6FNO4S
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | iron | 0.92 g | [Fe] | Fe
product | 5-fluoro-2-methylsulfonylphenylamine | 1 g | FC=1C=CC(=C(C1)N)S(=O)(=O)C | C7H8FNO2S
